US04468517
4-Chloromethyl-2-dimethylaminomethylthiazole, hydrochloride
Five g. of 4-chloromethyl-4-hydroxy-2-dimethylaminomethyl-2-thiazoline was added to 25 ml. of 1,2-dichloroethane, and 2.1 g. of sulfuryl chloride in 10 ml. of 1,2-dichloroethane was added. An exothermic reaction heated the mixture to 35° as soon as the addition began, so the mixture was cooled while the addition was made. The mixture was then stirred at ambient temperature for 1 hour, and was then heated to 42° for a short time. A 2-phase mixture formed, and the oily portion was removed and dissolved in 10 ml. of methanol. The methanol was removed under vacuum, and the residue was partially dissolved in 10 ml. of methanol, and then precipitated by addition of 25 ml. of ethyl acetate. The mixture was then cooled in the freezer, and the crystals were filtered off, washed with ethyl acetate and dried under vacuum at 30° to obtain 1.4 g. of the desired product, which was identified by nmr analysis as being substantially identical with the product of Example 5.

reactant | 4-chloromethyl-4-hydroxy-2-dimethylaminomethyl-2-thiazoline | ClCC1(N=C(SC1)CN(C)C)O | C7H13ClN2OS
reactant | sulfuryl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 4-Chloromethyl-2-dimethylaminomethylthiazole, hydrochloride | Cl.ClCC=1N=C(SC1)CN(C)C | InChI=1S/C7H11ClN2S.ClH/c1-10(2)4-7-9-6(3-8)5-11-7;/h5H,3-4H2,1-2H3;1H
